US04948887
(2) 2-chloro-3-cyanomethyl-4-methanesulfonylbenzoic acid
To 4.0 g of methyl 2-chloro-3-cyanomethyl-4-methanesulfonylbenzoate and 50 ml of methanol, 5 ml of an aqueous solution containing 0.72 g of sodium hydroxide (93%) was gradually added. The mixture was stirred for 15 minutes at room temperature. Then, the reaction mixture was neutralized with diluted hydrochloric acid, methanol was distilled off under reduced pressure and the concentrated solution was extracted with chloroform. After washing the extract with water and drying it, chloroform was distilled off to obtain 0.9 g of the desired product. Melting point: 169°-172° C.

reactant | methyl 2-chloro-3-cyanomethyl-4-methanesulfonylbenzoate | 4.0 g | ClC1=C(C(=O)OC)C=CC(=C1CC#N)S(=O)(=O)C | C11H10ClNO4S
reactant | sodium hydroxide | 0.72 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-chloro-3-cyanomethyl-4-methanesulfonylbenzoic acid | 0.9 g | ClC1=C(C(=O)O)C=CC(=C1CC#N)S(=O)(=O)C | C10H8ClNO4S
